US06177440B1
D. Preparation of 2-fluoro-5-methoxyaniline
A solution of 5.63 g of 2-chloro-4-fluoro-5-nitroanisole in 90 ml of ethanol and 5 ml of triethylamine was hydrogenated at room temperature under 60 pounds per square inch with 1.0 g of 5% palladium on carbon for four hours. The catalyst was filtered off and the solvent was evaporated. The residue was slurried in chloroform and filtered thourough a plug of silica gel and then evaporated. This residue was chromatographed on silica gel using hexane/chloroform mixtures to afford 2.77 g (72%) of the subtitle compound. mp. 253-254° C. NMR (300 MHz, CDCl3): δ 6.88 (dd, J=10.6, 8.9, 1H); 6.32 (dd, J=7.4, 3.0, 1H); 6.20 (dt, J=8.9, 3.2,1H); 3.73 (s, 3H); 3.72 (br, 2H).

reactant | 2-chloro-4-fluoro-5-nitroanisole | 5.63 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])OC | C7H5ClFNO3
solvent | ethanol | 90 ml | C(C)O | C2H6O
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 2-fluoro-5-methoxyaniline | 2.77 g, 72% | FC1=C(N)C=C(C=C1)OC | C7H8FNO
